US04091108
2-cyanophenoxathiin (2.25g), sodium azide (0.68g) ammonium chloride (0.59g) and dimethylformamide (30 ml.) were heated for 9 hours at 130° C. The solution was poured onto ice and 2 Normal sodium hydroxide solution, and extracted with chloroform. The aqueous phase was acidified with concentrated hydrochloric acid. The solid was filtered, washed and dried to give 2-5-tetrazolyl)phenoxathiin m.p. 210°-2° C. Recrystallisation from glacial acetic acid raised the melting point to 220°-1° C.

reactant | 2-cyanophenoxathiin | 2.25g | C(#N)C1=CC=2SC3=CC=CC=C3OC2C=C1 | C13H7NOS
reactant | sodium azide | 0.68g | [N-]=[N+]=[N-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | phenoxathiin | C1=CC=CC=2OC3=CC=CC=C3SC12 | C12H8OS
